US05763487
Preparation of 6-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyloxy)naphthalene carbaldehyde:
100 ml of dichloromethane and 1.7 g (4.5 mmol) of pyridinium dichromate were introduced into a round-bottomed flask. The mixture was cooled to 0° C. and a solution of 1.2 g (3.3 mmol) of 6-(5,6,7,8-tetra-hydro-5,5,8,8-tetramethyl-2-naphthyloxy)naphthalene methanol in 20 ml of dichloromethane was added dropwise. The mixture was stirred at room temperature for one hour, the reaction medium was filtered over silica, the filtrate was evaporated to dryness and the solid was triturated in heptane and filtered off. 1.07 g (90%) of the expected aldehyde was recovered, having a melting point of 123°-4° C.

reactant | pyridinium dichromate | 4.5 mmol, 1.7 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | 6-(5,6,7,8-tetra-hydro-5,5,8,8-tetramethyl-2-naphthyloxy)naphthalene methanol | 3.3 mmol, 1.2 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)OC=1C=C2C=CC=C(C2=CC1)CO)C | C25H28O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 6-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyloxy)naphthalene carbaldehyde | CC1(C=2C=CC(=CC2C(CC1)(C)C)OC=1C=C2C=CC=C(C2=CC1)C=O)C | C25H26O2
